US07138406B2
(3S,4aR,10aR)-3-Bromo-4a-ethyl-7-hydroxy-3,4,4a,9,10,10a-hexahydro-1H-phenanthren-2-one
To a solution of the title compound of Preparation 1f (5.4 grams, 22.1 mmol) in tetrahydrofuran (500 mL) at −78° C. was added phenyltrimethylammonium bromide tribromide (8.31 grams, 22.1 mmol) in portions. The mixture was allowed to stir at −78° C. for 1 hour and then allowed to slowly warm to 0° C. over 1.5 hours. After stirring at 0° C. for a further 3 hours, the mixture was poured into water and extracted twice with ethyl acetate. The combined extracts were dried (MgSO4) and concentrated to give an orange oil that was passed through a pad of silica gel washing with ethyl acetate. Concentration provided crude title product as an orange foam. 1H NMR (CDCl3) selected signals: δ 4.78 (dd, J=5.7, 13.5 Hz, 1 H), 3.28 (dd, J=5.7, 13.0 Hz, 1 H), 2.94–2.91 (m, 2 H).

reactant | phenyltrimethylammonium bromide tribromide | 22.1 mmol, 8.31 grams | [Br-].[Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4aR,10aR)-3-Bromo-4a-ethyl-7-hydroxy-3,4,4a,9,10,10a-hexahydro-1H-phenanthren-2-one | Br[C@@H]1C(C[C@H]2CCC3=CC(=CC=C3[C@@]2(C1)CC)O)=O | C16H19BrO2
